US05998436
Synthesis of 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-isopropylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 3 ml of the mixed solution of 4N hydrochloric acid and acetic acid (1:1, v/v) was added 300 mg of ethyl 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-isopropylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylate, and the mixture was heated under reflux for 19 hours with stirring. The precipitate was collected by filtration, washed with ethanol and diisopropylether successively to obtain 265 mg of the title compound as a yellow powder.

reactant | hydrochloric acid | 4N | Cl | ClH
reactant | ethyl 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-isopropylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylate | 300 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)NC(C)C)C(=O)OCC)=O)F)F | C20H16ClF4N3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 8-chloro-6,7-difluoro-1-(3,5-difluoro-6-isopropylaminopyridin-2-yl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 265 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=NC(=C(C=C1F)F)NC(C)C)C(=O)O)=O)F)F | C18H12ClF4N3O3
